US04970213
16 g of ethylamine are added, in the course of 5 minutes, at between 10° and 15° C., to a stirred suspension of 13.5 g of ethyl 2-(2,7-dichloro-6-fluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate in 135 cm3 of ethanol, the temperature is allowed to rise to about 20° C., 0.5 g of DBU is added and the mixture is heated, with stirring, for 2 hours at a temperature close to 75° C. After cooling to a temperature close to 20° C., the precipitate is drained and washed with twice 100 cm3 of ethanol and twice 100 cm3 of diethyl ether. 10.4 g of 8-chloro-3-ethoxycarbonyl-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo-[b][1,8]naphthyridine are obtained in the form of a yellow solid melting at 300°-301° C.

reactant | ethylamine | 16 g | C(C)N | C2H7N
reactant | ethyl 2-(2,7-dichloro-6-fluoroquinoline-3-carbonyl)-3-dimethylaminoacrylate | 13.5 g | ClC1=NC2=CC(=C(C=C2C=C1C(=O)C(C(=O)OCC)=CN(C)C)F)Cl | C17H15Cl2FN2O3
reactant | DBU | 0.5 g | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | ethanol | 135 cm3 | C(C)O | C2H6O
product | 8-chloro-3-ethoxycarbonyl-1-ethyl-7-fluoro-4-oxo-1,4-dihydro-benzo-[b][1,8]naphthyridine | 10.4 g | ClC=1C(=CC=2C(=NC=3N(C=C(C(C3C2)=O)C(=O)OCC)CC)C1)F | C17H14ClFN2O3
